US04613208
2.20 g of 4-(trans-4-pentylcyclohexyl)-4'-[2-(trans-4-pentylcyclohexyl)vinyl]biphenyl were suspended in toluene/ethanol (3:2) in a sulphonation flask, treated with 200 mg of palladium/carbon (10%) and hydrogenated at normal pressure and 50° C. until the hydrogen uptake came to a standstill. Filtration of the mixture and concentration of the filtrate gave a white semi-crystalline residue which, after recrystallization from 100 ml of hexane, yielded 1.55 g of 4-(trans-4-pentylcyclohexyl)-4'-[2-(trans-4-pentylcyclohexyl)ethyl]biphenyl as colourless needles; transition (presumably S-S) 219.5° C., transition S-N 243.2° C., cl.p. (N-I) 256.1° C. This substance was found to be very strongly super-coolable; upon cooling to room temperature it still did not crystallize. Rf-value (hexane): 0.32.

reactant | 4-(trans-4-pentylcyclohexyl)-4'-[2-(trans-4-pentylcyclohexyl)vinyl]biphenyl | 2.20 g | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=C[C@@H]1CC[C@H](CC1)CCCCC | C36H52
reactant | hydrogen | [H][H] | H2
solvent | toluene ethanol | C1(=CC=CC=C1)C.C(C)O
catalyst | palladium/carbon | 200 mg | [Pd] | Pd
product | 4-(trans-4-pentylcyclohexyl)-4'-[2-(trans-4-pentylcyclohexyl)ethyl]biphenyl | 1.55 g | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)CC[C@@H]1CC[C@H](CC1)CCCCC | C36H54
